US07872036B2
3.7 g of trifluoroacetaldehyde {2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}hydrazone was dissolved in 50 ml of N,N-dimethylformamide, and 2.0 g of N-bromosuccinimide was added at room temperature, followed by stirring at room temperature for 30 minutes. The reaction mixture was poured into water and extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 4.4 g of N-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}trifluoroacetohydrazonoyl bromide.

reactant | trifluoroacetaldehyde {2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}hydrazone | 3.7 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)NN=CC(F)(F)F | C11H9F7N2S
reactant | N-bromosuccinimide | 2.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}trifluoroacetohydrazonoyl bromide | 4.4 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)NN=C(C(F)(F)F)Br | C11H8BrF7N2S
